US05093346
Part A: 5-n-propylpyrrole-2-carboxaldehyde
To an anhydrous solution of 6-dimethylamino-1-azafulvene dimer (125; 12.0 g, 49.1 mmol) in THF (500 ml) at -15° C. was added dropwise a solution of 5-butyllithium in pentane (1.7M; 87 ml, 147 mmol) over 5 minutes. The yellow cloudy solution was slowly warmed to 0° C. over 10 minutes and stirred at this temperature for a further 20 minutes. The resulting deep violet colored solution was treated with 1-iodopropane (19.2 ml, 196 mmol) and allowed to warm to room temperature over 2 hours. The mixture was treated with water (20 ml) and saturated aqueous solution bicarbonate (20 ml) and refluxed for 15 hours. The mixture was extracted into methylene chloride and the organic phase was washed with saturated aqueous sodium bicarbonate, dried over anhydrous magnesium sulfate, filtered and concentrated to a dark liquid residue (15.2 g) by rotary evaporation. Flash chromatography (silica gel, 500 g; EtOAc/hexanes, 5/95) gave 7.85 g (60%) of the title compound as a pale brown liquid.

reactant | 6-dimethylamino-1-azafulvene | CN(C=C1C=CC=N1)C | C7H10N2
reactant | pentane | 147 mmol, 1.7M, 87 ml | CCCCC | C5H12
reactant | 1-iodopropane | 196 mmol, 19.2 ml | ICCC | C3H7I
reactant | bicarbonate | 20 ml | C([O-])(O)=O
solvent | THF | 500 ml | C1CCOC1 | C4H8O
solvent | water | 20 ml | O | H2O
product | 5-n-propylpyrrole-2-carboxaldehyde | 7.85 g, 60% | C(CC)C1=CC=C(N1)C=O | C8H11NO
